US07125901B2
To an ice-cold mixture of ethyl 2-amino-1,3-thiazole-4-carboxylate (2 g) prepared in a similar manner according to Step 1 of the following Production Example 7, pyridine (1.3 ml) and dichloromethane (20 ml) was added isobutyryl chloride (0.91 ml) and stirred for 30 minutes. To the mixture was added saturated aqueous hydrogen bicarbonate (30 ml), and the organic layer was separated, dried over sodium sulfate and concentrated in vacuo. The crystalline residue was collected and washed with ethyl acetate to give ethyl 2-(isobutyrylamino)-1,3-thiazole-4-carboxylate (1.34 g).

reactant | ethyl 2-amino-1,3-thiazole-4-carboxylate | 2 g | NC=1SC=C(N1)C(=O)OCC | C6H8N2O2S
reactant | pyridine | 1.3 ml | N1=CC=CC=C1 | C5H5N
reactant | isobutyryl chloride | 0.91 ml | C(C(C)C)(=O)Cl | C4H7ClO
reactant | hydrogen bicarbonate | 30 ml | C(O)(O)=O | CH2O3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | ethyl 2-(isobutyrylamino)-1,3-thiazole-4-carboxylate | 1.34 g | C(C(C)C)(=O)NC=1SC=C(N1)C(=O)OCC | C10H14N2O3S
